US04273779
To the solution of 11.9 g of 5-cinnamylamino-pyridine-2-carboxylic acid methyl ester in 25 ml of isopropanol, 28 ml of 2 N aqueous sodium hydroxide are added and the mixture intermittently heated on the steam bath for 40 minutes. It is cooled, decolorized with charcoal, filtered and the filtrate slightly acidified with hydrochloric acid and acetic acid. The mixture is extracted with benzene, the extract dried, evaporated and the residue recrystallized from benzene/methanol, to yield the 5-cinnamylaminopyridine-2-carboxylic acid melting at 178°-183°.

reactant | 5-cinnamylamino-pyridine-2-carboxylic acid methyl ester | 11.9 g | COC(=O)C1=NC=C(C=C1)NCC=CC1=CC=CC=C1 | C16H16N2O2
reactant | charcoal | C | CH4
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
solvent | sodium hydroxide | 2 N, 28 ml | [OH-].[Na+]
product | 5-cinnamylaminopyridine-2-carboxylic acid | C(C=CC1=CC=CC=C1)NC=1C=CC(=NC1)C(=O)O | C15H14N2O2
